US05538986
Dissolved 10,11-dihydro-N-methyl-5-(2-propenyl)-5H-dibenzo[a,d]cycloheptene-5-ethanamine (0.50 g, 1.72 mmol) in 20 mL of dry THF. Added triethylamine (0.29 mL, 0.21 g, 2.06 mmol) and ethyl chloroformate (0.18 mL, 0.20 g, 1.88 mmol). Stirred at room temperature for 5 hours. Added 50 mL of water, and extracted with dichloromethane. Dried combined organic extracts with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with dichloromethane. Combined appropriate fractions, and evaporated to give 0.50 g (81% yield) of ethyl N-[2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl-N-methylcarbamate.

reactant | 10,11-dihydro-N-methyl-5-(2-propenyl)-5H-dibenzo[a,d]cycloheptene-5-ethanamine | 1.72 mmol, 0.50 g | CNCCC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CC=C | C21H25N
reactant | triethylamine | 2.06 mmol, 0.29 mL, 0.21 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.88 mmol, 0.18 mL, 0.20 g | ClC(=O)OCC | C3H5ClO2
reactant | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl-N-methylcarbamate | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCOC(NC)=O | C22H25NO2
